US08563583B2
A. 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-2-oxo-1,2-dihydropyridin-4-ylboronic acid
A mixture of 4-chloro-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one Part D of procedure 9 (300 mg, 0.93 mmol), 4,4,4′, 4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (706 mg, 2.78 mmol), potassium acetate (273 mg, 2.78 mmol), TRIS(DIBENZYLIDENEACETONE)-DIPALLADIUM(0)-CHLOROFORM ADDUCT (67 mg, 0.06 mmol), and X-Phos (133 mg, 0.28 mmol) in Dioxane (6 mL) was stirred at 90° C. for 18 hours (Mullen et al, JOC, 2008, 73 (23) 9207-9213). The reaction was filtered and concentrated. The crude was purified using ISCO flash chromatography (silica gel/methylene chloride/methanol 100:0 to 90:10 gradient) to afford the desired product 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-2-oxo-1,2-dihydropyridin-4-ylboronic acid 12A (112 mg, 0.336 minol, 36.3% yield) as a brown solid. LC/MS 334 (M+H)+, tR 0.59 min (method 5)

reactant | 4-chloro-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | ClC1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C16H18ClNO4
reactant | 4,4,4′, 4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.78 mmol, 706 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.78 mmol, 273 mg | C(C)(=O)[O-].[K+]
reactant | X-Phos | 0.28 mmol, 133 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | Dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | TRIS(DIBENZYLIDENEACETONE)-DIPALLADIUM(0)-CHLOROFORM ADDUCT | 0.06 mmol, 67 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-2-oxo-1,2-dihydropyridin-4-ylboronic acid | 112 mg, 36.3% yield | OC(COC1=C(C=C(C=C1)N1C(C=C(C=C1)B(O)O)=O)OC)(C)C | C16H20BNO6
